US04810486
ii. 2-Benzylthioethane-1,1-diphosphonic acid.
Tetramethyl 2-benzylthioethane-1,1-diphosphonate (2.45 g) in chloroform (5 cm3) was treated with an excess of trimethylsilyl bromide (5.1 g) at room temperature. The formation of the trimethylsilyl esters was monitored by 31P n.m.r. and was complete after 15 min.

reactant | Tetramethyl 2-benzylthioethane-1,1-diphosphonate | 2.45 g | C(C1=CC=CC=C1)CC(P(OC)(=S)OC)P(OC)(=O)OC | C13H22O5P2S
reactant | trimethylsilyl bromide | 5.1 g | C[Si](C)(C)Br | C3H9BrSi
solvent | chloroform | 5 cm3 | C(Cl)(Cl)Cl | CHCl3
product | 2-Benzylthioethane-1,1-diphosphonic acid | C(C1=CC=CC=C1)CC(P(O)(=S)O)P(O)(=O)O | C9H14O5P2S
